US08912180B2
trans-4-(Dibenzylamino)cyclohexanol (200 mg), 2-(3-bromopropoxy)tetrahydro-2H-pyran (604 mg), powder potassium hydroxide (179 mg), and tetrabutylammonium bromide (44 mg) were suspended in xylene (2 mL), followed by stirring at room temperature for 2 hours. To the reaction mixture were added ethyl acetate and water, and the organic layer was extracted and washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by amino silica gel column chromatography (hexane:ethyl acetate=100:0-80:20) to obtain trans-N,N-dibenzyl-4-[3-(tetrahydro-2H-pyran-2-yloxy)propoxy]cyclohexanamine (174 mg).

reactant | trans-4-(Dibenzylamino)cyclohexanol | 200 mg | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)O)CC1=CC=CC=C1 | C20H25NO
reactant | 2-(3-bromopropoxy)tetrahydro-2H-pyran | 604 mg | BrCCCOC1OCCCC1 | C8H15BrO2
reactant | potassium hydroxide | 179 mg | [OH-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrabutylammonium bromide | 44 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | xylene | 2 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | trans-N,N-dibenzyl-4-[3-(tetrahydro-2H-pyran-2-yloxy)propoxy]cyclohexanamine | 174 mg | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)OCCCOC1OCCCC1)CC1=CC=CC=C1 | C28H39NO3
